US06329416B1
To a solution of the 5-bromo-1,3-dihydro-3,3-dimethyl-2H-indol-2-one (0.9 g, 3.7 mmol) in 20 mL THF at 0° C. was added a borane-methylsulfide complex (2M in THF, 38 mL, 75 mmol). The reaction mixture was warmed to room temperature then brought to reflux for 4 hours. The mixture was cooled to room temperature and poured into H2O/CH2Cl2 and washed with 5% NaHCO3. The organic layer was washed with brine, dried (Na2SO4) and concentrated. The crude product was extracted in MeOH, trimethylamine N-oxide (2.0 g, 26.6 mmol) was added, and the solution was brought to reflux for 2 hours. The reaction mixture was cooled, concentrated and the crude residue purified by column chromatography (SiO2, methylene chloride) to afford 5-bromo-3,3-dimethyl-2,3-dihydro-1H-indole (0.074 g, 87%) as a yellow oil: 1H NMR (CDCl3)δ 1.29 (s, 6H), 3.30 (s, 2H), 3.5 (br s, 1H), 6.49 (d,J=8.8 Hz, 1H), 7.08-7.12 (m, 2H); 13 C-NMR (CDCl3)δ 27.69 (q), 42.21 (s), 62.01 (d), 110.38(s), 111.09, 125.46, 130.09(d), 141.03, 149.52(s); MS (EI) m/z 225, 227 (M)+.

reactant | 5-bromo-1,3-dihydro-3,3-dimethyl-2H-indol-2-one | 3.7 mmol, 0.9 g | BrC=1C=C2C(C(NC2=CC1)=O)(C)C | C10H10BrNO
reactant | borane methylsulfide | 75 mmol, 2M, 38 mL | B.CSC
reactant | H2O CH2Cl2 | O.C(Cl)Cl
reactant | trimethylamine N-oxide | 26.6 mmol, 2.0 g | C[N+](C)(C)[O-] | C3H9NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-bromo-3,3-dimethyl-2,3-dihydro-1H-indole | 0.074 g, 87% | BrC=1C=C2C(CNC2=CC1)(C)C | C10H12BrN
